### PR TITLE
Basics: rework the last exercise

### PR DESCRIPTION
**Pull request by berberman**
The previous exercise was a bit of awkward with large numeric literals and  techniques we haven't introduced yet such as `Ne`, `dsimp`, `<;>`, etc.

This PR replaces it with a simpler exercise -- students define and test a small set of airport operations, write characterization lemmas, and then use those lemmas in larger proofs. I have tried making one about practicing more on structures, but it turned out to be awkward because the claims couldn't be stated nicely -- they would need the proofs to use `dsimp`/`contradiction` for operating equational hypotheses and structure projections.

I used gpt-5.6 to revise the wording.

### CODE REVIEW

File: LF/Basics.lean [hunk 1]
```diff
@@ -1372,6 +1372,16 @@ inductive Nat : Type where
   | succ (n : Nat)
 ```
 
+The following lines make ordinary numerals such as 0, 1, and 2 work with our {name}`Nat` type.You can ignore the details for now.
+
+```lean
+def ofNat : _root_.Nat → Nat
```
Comment (xhalo32) [inline LF/Basics.lean:1389]: Can we avoid `_root_`? Not sure if it's used elsewhere in the file but I think it's better to `end+namespace` instead.

File: LF/Basics.lean [hunk 2]
```diff
@@ -2676,358 +2686,330 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
-example : letterComparison B F = gt := by rfl
-```
-
-::::exercise (rating := 1) (name := "letter_comparison")
-```lean
-theorem letterComparison_Eq : ∀ l : Letter,
-    letterComparison l l = eq := by
-  solution!
-    intro l; cases l <;> rfl
+The simplification rules for {name}`buyTicket`:
```
Comment (xhalo32) [inline LF/Basics.lean]: Is "simplification" the best term here?

Comment (xhalo32) [reply LF/Basics.lean]: I don't remember if we have introduced characterizing lemmas before this point

File: LF/Basics.lean [hunk 3]
```diff
@@ -2676,358 +2686,330 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
-def modifierComparison (m1 m2 : Modifier) : Comparison :=
-  match m1, m2 with
-  | plus, plus => eq
-  | plus, _ => gt
-  | natural, plus => lt
-  | natural, natural => eq
-  | natural, _ => gt
-  | minus, minus => eq
-  | minus, _ => lt
+theorem buyTicket_idempotent (t : Traveler) :
```
Comment (xhalo32) [inline LF/Basics.lean:2809]: have we explained what idempotent means?

File: LF/Basics.lean (hunk 2 above)
Comment (mwhicks1) [reply LF/Basics.lean]: Like 1531 (on the `main` version) introduces simplification rules (aka characterizing lemmas -- we give both terms there), so we are good.

File: LF/Basics.lean [hunk 4]
```diff
@@ -1372,6 +1372,16 @@ inductive Nat : Type where
   | succ (n : Nat)
 ```
 
+The following lines make ordinary numerals such as 0, 1, and 2 work with our {name}`Nat` type.You can ignore the details for now.
```
Comment (Robertboy18) [inline LF/Basics.lean]: Now that the late-days exercise is gone, do we still need this `OfNat` setup? I couldn’t find another Lean example that uses numeric literals with this `Nat`. The later `factorial_bad` example still fails because `HSub` is missing, before Lean reaches the termination check.

File: LF/Basics.lean [hunk 5]
```diff
@@ -2676,358 +2686,330 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
+and their bag is marked as needing inspection.
+Calling checkIn in any other state does nothing.
+
+:::exercise (rating := 1) (name := "check_in")
 
-::::exercise (rating := 2) (name := "grade_comparison")
-Here, we will need to access the fields of the `Grade` structure.
-The field names are `letter` and `modifier`, so for a grade `g`,
-we can write `g.letter` and `g.modifier` to access these fields.
+Define `check_in`.
```
Comment (Robertboy18) [inline LF/Basics.lean]: Should this be `checkIn` to match the function name below?

File: LF/Basics.lean [hunk 6]
```diff
@@ -2676,358 +2686,330 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
+    (screeningStatus : ScreeningStatus) :
+    checkIn (.checkedIn bagContent screeningStatus) = .checkedIn bagContent screeningStatus := solution!(by rfl)
 
-```lean
-theorem lowerLetter_F_is_F : lowerLetter F = F := by rfl
+attribute [irreducible] checkIn
 ```
 
-::::exercise (rating := 2) (name := "lower_letter_lowers")
+Buying a ticket and then checking in always leaves the traveler checked in,
```
Comment (Robertboy18) [inline LF/Basics.lean]: This sounds like a claim about any traveler, but the theorem only starts from `.noTicket`. Could we narrow the prose to say that a traveler with no ticket becomes checked in after these two operations?

File: LF/Basics.lean [hunk 7]
```diff
@@ -2676,358 +2686,330 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
+{name}`inspectBag` and {name}`replaceBag` commute when the traveler has not checked in.
+:::
+
+:::exercise (rating := 2) (name := "inspect_replace_commute")
 ```lean
-theorem grade_lowered_once : ∀ (lateDays : NatPlayground.Nat) (g : Grade),
-    (Nat.ble lateDays 9 = false) →
-    (Nat.ble lateDays 17 = true) →
-    applyLatePolicy lateDays g = lowerGrade g := by
+theorem inspectBag_replaceBag_comm_ticketed
```
Comment (Robertboy18) [inline LF/Basics.lean]: The prose covers any traveler who has not checked in, which includes both `.noTicket` and `.ticketed`, but this theorem only covers `.ticketed`. Also, `screeningStatus` is unused. Should we add the `.noTicket` case, or narrow the prose and remove that parameter?

File: LF/Basics.lean (hunk 1 above)
Comment (berberman) [reply LF/Basics.lean:1389]: This `Nat` is used in the next chapter (Induction) , and I don't think this looks better:
```lean
end NatPlayground

def ofNat : Nat → NatPlayground.Nat
  | .zero => .zero
  | .succ n => .succ (ofNat n)

instance (n : Nat) : OfNat NatPlayground.Nat n := ⟨ofNat n⟩

namespace NatPlayground
```

FYI TPiL also has similar declarations, though they are hidden:
https://github.com/leanprover/theorem_proving_in_lean4/blob/63fad08fcd5f4f3b8b0464561e2fa252671296b9/book/TPiL/InductiveTypes.lean#L1577-L1600

File: LF/Basics.lean (hunk 4 above)
Comment (berberman) [reply LF/Basics.lean]: Good catch. I believe `factorial_bad` was already incorrect before this PR. Given that we are using this `Nat` until UsingLean, I think we need to define the subtraction.

Comment (berberman) [reply LF/Basics.lean]: Actually let's just use `pred`.

**Comment by berberman** [comment]
@Robertboy18 Thanks for the careful review!

**Review by Robertboy18 — APPROVED** [review]
Thanks, these changes address my earlier comments and the updated build is passing. I noticed two tiny prose typos: `checked in,in which case` needs a space after the comma, and `A traveler can check in only after buying a ticket. and their bag...` should be one sentence. Otherwise this looks good to me!

File: LF/Basics.lean [hunk 8]
```diff
@@ -2685,358 +2695,347 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
-Suppose that a course has a grading policy based on late days,
-where a student's final letter grade is lowered if they submit too
-many homework assignments late.
-::::
 
-```lean
-namespace LateDays
-open scoped NatPlayground.Nat
+:::full
+Now that we have learned the basic features of Lean 4, let's close the chapter
```
Comment (dsainati1) [inline LF/Basics.lean]: Is this the first time we mention the Version number? I think this is confusing if so, we should explain earlier in the chapter that Lean 4 is the current (non-backwards compatible) version of Lean and we will just say Lean to refer to Lean 4 throughout this book.

File: LF/Basics.lean [hunk 9]
```diff
@@ -2685,358 +2695,353 @@ theorem and_eq_or (b c : Bool) : (b && c) = (b || c) → b = c := by
...
 
-Niklas Halonen (xhalo32): We need to teach how to prove a goal that looks like `natural ≠ minus` for example.
-One could write `injection x` for example:
+:::exercise (rating := 1) (name := "replace_bag")
+Define `replaceBag`.
 ```lean
-example : natural ≠ minus := by
-  intro x
-  injection x
+def replaceBag (newContent : BagContent) (t : Traveler) : Traveler := solution!(
```
Comment (dsainati1) [inline LF/Basics.lean]: I generally like this exercise except for this part. The `replaceBag` operation feels a bit contrived to me because there isn't really a way to replace your bag after it's been inspected. If we're talking about checked bags (as I assume we are because of the battery check), the screening happens once the bag has left your possession, so you can't replace it. 

Maybe the way to clear this up is to tweak the exercise's framing slightly to apply to carry-on luggage (and change the battery restriction to e.g. liquids). In this case it is actually possible to leave the security-screened section of an airport, requiring another inspection in order to re-enter.

Comment (bcpierce00) [reply LF/Basics.lean]: I like this idea!

**Comment by bcpierce00** [comment]
#Note: Looks great, modulo Daniel's comment about the very last part.

**Review by dsainati1 — APPROVED** [review]
I like this exercise. I think it will probably need a couple tweaks but it's in good enough condition IMO that we should get it out to the alpha testers and see what they have to say.
